US03978068
EXAMPLE 1 -- Preparation of 3-methyl-4-benzylideneamino-6-phenyl-5-H-1,2,4-triazin-5-one ##SPC5##
10.1 g (0.05 mol) of 3-methyl-4-amino-6-phenyl-1,2,4-triazin-5-one, 10 g (0.09 mol) of benzaldehyde, 0.3g of p-toluenesulphonic acid and 300 ml of benzene were boiled for 8 hours under a water separator. Thereafter the reaction mixture was filtered and the solvent was distilled off in vacuo. The residue solidfied after trituration with petroleum ether.

reactant | 3-methyl-4-amino-6-phenyl-1,2,4-triazin-5-one | 0.05 mol, 10.1 g | CC1=NN=C(C(N1N)=O)C1=CC=CC=C1 | C10H10N4O
reactant | benzaldehyde | 0.09 mol, 10 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulphonic acid | 0.3g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-benzylideneamino-6-phenyl-5-H-1,2,4-triazin-5-one | CC1=NN=C(C(N1N=CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H14N4O
